US05498609
To a solution of 6-(2-methylbenzoylamino)nicotinic acid methyl ester (2.1 g) in methanol (30 ml) is added 5% aqueous sodium hydroxide solution (24 ml), and the mixture is refluxed for two hours. To the reaction solution is added water, and the mixture is made weak acidic with 1N aqueous hydrochloric acid solution, and then, extracted with diethyl ether. The extract is dried over magnesium sulfate, and evaporated under reduced pressure to remove the solvent to give 6-(2-methylbenzoylamino)nicotinic acid (2.1 g) as white powder.

reactant | 6-(2-methylbenzoylamino)nicotinic acid methyl ester | 2.1 g | COC(C1=CN=C(C=C1)NC(C1=C(C=CC=C1)C)=O)=O | C15H14N2O3
reactant | sodium hydroxide | 24 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 6-(2-methylbenzoylamino)nicotinic acid | 2.1 g | CC1=C(C(=O)NC2=NC=C(C(=O)O)C=C2)C=CC=C1 | C14H12N2O3
